US05286721
To a solution of (3S,4R)-4-[2-{1,2-bis(benzyloxycarbonyl)pyrazolidin-4-yl}-2-oxoethyl]-3-[(1R)-1-t-butyldimethylsilyloxyethyl]-2-oxoazetidine (500 mg) and 1N hydrochloric acid (1.64 ml) in methanol (20 ml) was added platinum oxide (50 mg) under nitrogen atmosphere. The suspension was stirred under hydrogen atmosphere for 4 hours at room temperature. After then, the catalyst was filtered off and washed with water. After tetrahydrofuran (50 ml) and water (20 ml) was added, the pH was adjusted to 8.0 with saturated aqueous sodium bicarbonate in an ice bath and allyl chloroformate (348 ml) was added keeping pH at 8.0-8.5. After stirring for an hour at pH 8.0-8.5, the mixture was extracted three times with ethyl acetate. The combined organic layer was washed with 1N hydrochloric acid, saturated aqueous sodium bicarbonate, and brine, dried over magnesium sulfate and evaporated under reduced pressure. The residue was chromatographed on silica gel to give (3S,4R)-4 -[4-allyloxycarbonylamino-3-(N-allyloxycarbonylaminomethyl)-2-oxobutyl]-3-[(1R)-1-(t-butyldimethylsilyloxy)ethyl]-2-oxoazetidine (289 mg).

reactant | (3S,4R)-4-[2-{1,2-bis(benzyloxycarbonyl)pyrazolidin-4-yl}-2-oxoethyl]-3-[(1R)-1-t-butyldimethylsilyloxyethyl]-2-oxoazetidine | 500 mg | C(C1=CC=CC=C1)OC(=O)N1N(CC(C1)C(C[C@@H]1[C@H](C(N1)=O)[C@@H](C)O[Si](C)(C)C(C)(C)C)=O)C(=O)OCC1=CC=CC=C1 | C32H43N3O7Si
reactant | hydrochloric acid | 1N, 1.64 ml | Cl | ClH
solvent | methanol | 20 ml | CO | CH4O
catalyst | platinum oxide | 50 mg | [Pt]=O
product | (3S,4R)-4 -[4-allyloxycarbonylamino-3-(N-allyloxycarbonylaminomethyl)-2-oxobutyl]-3-[(1R)-1-(t-butyldimethylsilyloxy)ethyl]-2-oxoazetidine | 289 mg | C(C=C)OC(=O)NCC(C(C[C@@H]1[C@H](C(N1)=O)[C@@H](C)O[Si](C)(C)C(C)(C)C)=O)CNC(=O)OCC=C | C24H41N3O7Si
